US07700641B2
Synthesis of 5-fluoro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 3-(5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 3% yield: 1H NMR (300 MHz, CDCl3) δ 7.37-7.28 (m, 1H), 7.18-7.11 (m, 1H), 7.09-7.01 (m, 1H), 6.98-6.82 (m, 3H), 6.45-6.37 (m, 1H), 4.95 (d, 1H), 4.69 (d, 1H), 3.89-3.63 (m, 2H), 1.81-1.65 (m, 2H), 1.48-1.28 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.7, 159.4, 156.6, 132.2, 130.1, 129.3, 124.1, 123.4, 116.3, 110.8, 110.5, 108.9, 80.4, 58.4, 40.6, 29.2, 27.3, 22.5, 14.1; MS (ES+) m/z 326 (M+1).

reactant | 3-(5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | FC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H22FNO3
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 5-fluoro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 3% yield | FC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20FNO2
